US08530648B2
2-((2,3-dihydrobenzo[b][1,4]dioxin-5-yl)methyl)-9-(quinoxalin-2-yl)-2,9-diazaspiro[5.5]undecan-1-one
To a solution of 9-quinoxalin-2-yl-2,9-diaza-spiro[5.5]undecan-1-one (50 mg, 0.169 mmol) in THF (2 ml) sodium hydride 95% (6.07 mg, 0.253 mmol) was added and the mixture was stirred for 20 min. Then 5-bromomethyl-2,3-dihydro-benzo[1,4]dioxin (77 mg, 0.337 mmol) was added and the reaction mixture was heated at 50° C. over 18 h. Saturated aqueous NH4Cl solution (50 ml) was added and the reaction mixture was extracted with methylene chloride. The organic layer was dried over Na2SO4, filtered and concentrated under reduced pressure. The resulting crude product was purified by flash chromatography (EtOAc/hexane 70:30) to yield 60 mg (79%) of the title compound. [1H NMR (600 MHz, DMSO-d6) δ 1.54-1.66 (2H, m) 1.76-1.84 (2H, m) 1.87-1.93 (2H, m) 2.02-2.12 (2H, m) 3.23 (2H, t) 3.39-3.47 (2H, m) 4.20-4.23 (2H, m) 4.24-4.27 (3H, m) 4.27-4.30 (1H, m) 4.41 (2H, s) 6.54 (1H, m) 6.72-6.75 (1H, m) 6.75-6.79 (1H, m) 7.32-7.41 (1H, m) 7.49-7.63 (2H, m) 7.80 (1H, d, J=8.07 Hz), 8.82 (1H, s), LCMS RtD=3.27 min, [M+H]+=445.2].

reactant | 9-quinoxalin-2-yl-2,9-diaza-spiro[5.5]undecan-1-one | 0.169 mmol, 50 mg | N1=C(C=NC2=CC=CC=C12)N1CCC2(CCCNC2=O)CC1 | C17H20N4O
reactant | THF | 0.253 mmol, 2 ml, 6.07 mg | C1CCOC1 | C4H8O
reactant | 5-bromomethyl-2,3-dihydro-benzo[1,4]dioxin | 0.337 mmol, 77 mg | BrCC1=CC=CC=2OCCOC21 | C9H9BrO2
solvent | NH4Cl | 50 ml | [NH4+].[Cl-]
product | 2-((2,3-dihydrobenzo[b][1,4]dioxin-5-yl)methyl)-9-(quinoxalin-2-yl)-2,9-diazaspiro[5.5]undecan-1-one | 60 mg, 79% | O1C2=C(OCC1)C(=CC=C2)CN2C(C1(CCC2)CCN(CC1)C1=NC2=CC=CC=C2N=C1)=O | C26H28N4O3
